US08426449B2
Step 3: {3-[2-[(Acetyl-ethyl-amino)-methyl]-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 5, using the following starting materials: (3-{2-[(acetyl-ethyl-amino)-methyl]-4-amino-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester and trimethylacetyl chloride.

reactant | (3-{2-[(acetyl-ethyl-amino)-methyl]-4-amino-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN(CC)C(C)=O)=O | C22H28N2O5
reactant | trimethylacetyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
product | {3-[2-[(Acetyl-ethyl-amino)-methyl]-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CN(CC)C(C)=O)=O | C27H36N2O6
